US05338853
N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminoadipamide was prepared by reacting 4-amino-2,2,6,6-tetramethylpiperidine with ethyl adipoyl chloride, followed by hydrazinolysis of the resulting ester with 85% hydrazine hydrate in methanol.

reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | ethyl adipoyl chloride | C(C)C(C(=O)Cl)CCCC(=O)Cl | C8H12Cl2O2
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminoadipamide | CC1(NC(CC(C1)NC(CCCCC(=O)NN)=O)(C)C)C | C15H30N4O2
